US08134001B2
In a manner similar to the method described in example 1d, 4-(2-formyl-4-iodo-phenoxy)-benzoic acid methyl ester (3.8 g, 9.94 mmol) was reacted with 1,1,1,3,3,3-hexamethyldisilazane (2.06 mL, 9.94 mmol), n-butyllithium (2.5 M, 3.97 mL, 9.94 mmol), trimethylsilyl chloride (1.26 mL, 9.94 mmol), triethylamine (1.79 mL, 12.9 mmol) and acetyl chloride (1.22 mL, 12.9 mmol) to give crude 1-[5-iodo-2-(4-methoxycarbonyl-phenoxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 4-(2-formyl-4-iodo-phenoxy)-benzoic acid methyl ester | 9.94 mmol, 3.8 g | COC(C1=CC=C(C=C1)OC1=C(C=C(C=C1)I)C=O)=O | C15H11IO4
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 9.94 mmol, 2.06 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | 9.94 mmol, 2.5 M, 3.97 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 9.94 mmol, 1.26 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 12.9 mmol, 1.79 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 12.9 mmol, 1.22 mL | C(C)(=O)Cl | C2H3ClO
product | 1-[5-iodo-2-(4-methoxycarbonyl-phenoxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene | IC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)OC1=CC=C(C=C1)C(=O)OC | C20H22INO4Si
